US08623889B2
To a mixture of 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (103.2 mg, 0.4090 mmol), 2,2-difluorocyclopropanecarboxylic acid (79.6 mg, 0.652 mmol) and (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (326.5 mg, 0.6298 mmol) in N,N-dimethylformamide (2 mL, 20 mmol) was added N,N-diisopropylethylamine (0.25 mL, 1.4 mmol) and 4-dimethylaminopyridine (6.7 mg, 0.055 mmol). The reaction mixture was stirred at 50° C. for 2.5 hours. The reaction mixture was then poured into ethyl acetate, which was washed with two portions water, dried with brine and MgSO4, and filtered through a plug of silica gel, which was rinsed with ethyl acetate, and evaporated in vacuo. The resulting residue was purified via reverse phase HPLC and lyophilized to yield 106.4 mg (73%) of 2,2-difluoro-N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide. LCMS (ESI): RT (min)=5.701, M+H=357.1, Method=E; 1H NMR (400 MHz, DMSO-d6) δ 11.14 (s, 1H), 9.21 (s, 1H), 8.50 (s, 1H), 8.07 (s, 1H), 7.98 (d, J=8.4 Hz, 1H), 7.74 (d, J=8.4 Hz, 1H), 7.39 (s, 1H), 7.18 (d, J=8.7 Hz, 2H), 3.07 (d, J=10.0 Hz, 1H), 2.25 (s, 3H), 2.07 (s, 2H).

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 0.4090 mmol, 103.2 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | 2,2-difluorocyclopropanecarboxylic acid | 0.652 mmol, 79.6 mg | FC1(C(C1)C(=O)O)F | C4H4F2O2
reactant | (7-azabenzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.6298 mmol, 326.5 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N,N-dimethylformamide | 20 mmol, 2 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 1.4 mmol, 0.25 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | 4-dimethylaminopyridine | 0.055 mmol, 6.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-difluoro-N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 106.4 mg, 73% | FC1(C(C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C1=C(C=CC(=C1)F)C)F | C20H15F3N2O
